US09278973B2
To a solution of 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine (100 mg, 0.52 mmol) in n-BuOH (1 ml) was added ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate (280 mg, 1.00 mmol) and TsOH (5 mg, 0.03 mmol), and the reaction mixture was stirred overnight at 130° C. The solids were collected by filtration and washed with methanol (10 ml) to afford 2-(3-chlorophenyl)-5-(1H-indazol-5-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a light yellow solid (75 mg, 34%).

reactant | 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.52 mmol, 100 mg | ClC=1C=C(C=CC1)C1=NNC(=N1)N | C8H7ClN4
reactant | ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate | 1.00 mmol, 280 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H14N2O4
reactant | TsOH | 0.03 mmol, 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 1 ml | CCCCO | C4H10O
product | 2-(3-chlorophenyl)-5-(1H-indazol-5-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 75 mg, 34% | ClC=1C=C(C=CC1)C1=NN2C(NC(=CC2=O)C=2C=C3C=NNC3=CC2)=N1 | C18H11ClN6O
